US07585886B2
A methanol solution of methyl 1-benzyl-5-oxo-3-pyrrolidinecarboxylate was mixed with 1 M sodium hydroxide aqueous solution and stirred at room temperature for 2Hours. After completion of the reaction, this was neutralized with 1 M hydrochloric acid, and methanol was evaporated. The thus formed crystals were collected by filtration to obtain 1-benzyl-5-oxo-3-pyrrolidine-carboxylic acid. FN: 218.

reactant | methyl 1-benzyl-5-oxo-3-pyrrolidinecarboxylate | C(C1=CC=CC=C1)N1CC(CC1=O)C(=O)OC | C13H15NO3
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-benzyl-5-oxo-3-pyrrolidine-carboxylic acid | C(C1=CC=CC=C1)N1CC(CC1=O)C(=O)O | C12H13NO3
